US05120738
Preparation of N-[4-(Oleoylamino)phenyl]-3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propanamide
4-Oleoylaminoaniline (744 mg) and 606 mg of 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 900 mg of the title compound (yield: 69%).

reactant | 4-Oleoylaminoaniline | 744 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=CC=C(N)C=C1 | C24H40N2O
reactant | 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid | 606 mg | C(C)(=O)OC(C(=O)NCCC(=O)O)C(COC(C)=O)(C)C | C13H21NO7
product | N-[4-(Oleoylamino)phenyl]-3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propanamide | 900 mg, yield: 69% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=CC=C(C=C1)NC(CCNC(C(C(COC(C)=O)(C)C)OC(C)=O)=O)=O | C37H59N3O7
